US04108667
1,3-Diethyl-5-[(1,2,3,4,6,7-hexahydro-13H-dibenzo[a,f]quinolizin-13-ylidene)ethylidene]-2-thiobarbituric acid
1,2,3,4,6,7-Hexahydro-13-methyldibenzo[a,f]quinolizinium perchlorate (0.7 g) and 5-anilinomethylene-1,3-diethyl-2-thiobarbituric acid (0.6 g) were dissolved in acetonitrile and tetramethylguanidine (0.22 g) was added. The precipitated dye was collected by filtration and recyrstallized from dimethylformamide. Yield 0.4 g (44%), m.p. 320°, λmax in pyridine 522 nm, ε = 8.2 × 104.

reactant | 1,2,3,4,6,7-Hexahydro-13-methyldibenzo[a,f]quinolizinium perchlorate | 0.7 g | Cl(=O)(=O)(=O)[O-].CC=1C2=C([N+]=3CCC4=C(C3C1)C=CC=C4)CCCC2
reactant | 5-anilinomethylene-1,3-diethyl-2-thiobarbituric acid | 0.6 g | N(C1=CC=CC=C1)C=C1C(N(C(N(C1=O)CC)=S)CC)=O | C15H17N3O2S
reactant | tetramethylguanidine | 0.22 g | CN(C(N(C)C)=N)C | C5H13N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,3-Diethyl-5-[(1,2,3,4,6,7-hexahydro-13H-dibenzo[a,f]quinolizin-13-ylidene)ethylidene]-2-thiobarbituric acid | C(C)N1C(=S)N(C(=O)C(C1=O)=CC=C1C2=C(N3CCC4=C(C3=C1)C=CC=C4)CCCC2)CC | C27H29N3O2S
